US06492400B1
Part A: Preparation of 1-t-butyloxycarbonyl-4-benzylpiperidine
4-benzylpiperidine (10.0 g, 57.1 mmol, 1.0 eq.) was dissolved in 100 mL of THF under N2 and subsequently cooled to 0°C. Di-tert-butyl dicarbonate (11.21 g, 51.3 mmol, 0.9 eq.) dissolved in 50 mL of THF, was added dropwise. Gas evolution was observed. Once gas evolution ceased, the ice bath was removed. After 20 hours, the THF was removed in vacuo then the residue was dissolved in EtOAc and rinsed 3× with 1N citric acid, 133 with brine. The organic was dried over magnesium sulfate and stripped to yield 15.4 g of colorless oil as product. Yield=97.9%. NMR (300 MHz, CDCl3) δ7.35-7.17 (m, 3H); 7.14 (d, 2H, J=7 Hz); 4.20-3.90 (m, 2H); 2.75-2.55 (m, 2H); 2.54 (d, 2H, J=7 Hz); 1.70-1.50 (m, 3H); 1.46 (s, 9H); 1.20-1.00 (m, 2H).

reactant | 4-benzylpiperidine | 57.1 mmol, 10.0 g, 1.0 eq. | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | Di-tert-butyl dicarbonate | 51.3 mmol, 11.21 g, 0.9 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-t-butyloxycarbonyl-4-benzylpiperidine | 15.4 g, Yield=97.9% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=CC=C1 | C17H25NO2
